US09145424B2
Ethyl 4-(4-chlorophenoxy)-3-oxobutanoate (TC-II-48)
A solution of 4-chlorophenol (6.4 g, 50 mmol) in THF (25 mL) was treated with NaH (60% in mineral oil, 2 g, 50 mmol) at 0° C. In another flask, a solution of ethyl 4-chloroacetoacetate (10.21 mL, 75 mmol) in THF (25 mL) was treated NaH (60% in mineral oil, 3.5 g, 75 mmol) at −20° C. The resulting yellowish suspension was slowly added to the solution of sodium 4-chlorophenoxide, which was kept at 0° C. After the addition of DMF (10 mL), the reaction temperature was slowly raised to 70° C. After reaction mixture was stirred at 70° C. for overnight, it was cooled and evaporated to dryness. The residue was purified by flash column chromatography (ethyl acetate/hexanes=1/9) to afford TC-II-148 as a yellowish oil, which still contained some 4-chloroacetoacetate. No further purification was applied for the next step of synthesis. Exposure to hydrazine in refluxing ethanol, generated TC-II-150.

reactant | 4-chlorophenol | 50 mmol, 6.4 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | NaH | 50 mmol, 2 g | [H-].[Na+]
reactant | ethyl 4-chloroacetoacetate | 75 mmol, 10.21 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | NaH | 75 mmol, 3.5 g | [H-].[Na+]
reactant | sodium 4-chlorophenoxide | ClC1=CC=C([O-])C=C1.[Na+]
reactant | 4-chloroacetoacetate | ClCC(CC(=O)[O-])=O
reactant | hydrazine | NN | H4N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-(4-chlorophenoxy)-3-oxobutanoate | ClC1=CC=C(OCC(CC(=O)OCC)=O)C=C1 | C12H13ClO4
